US05986029
a. Preparation of (dimethylaminoethyl)bis(1-cyclohexenyl)-methanol
1-chloro-1-cyclohexene (5.8 g; 0.049 mol) was added to lithium (1.1 g; 0.049 mol) in diethyl ether (50 ml) in a single portion. After stirring overnight at room temperature, stirring was continued for 7 more hours with reflux. After cooling, ethyl-3-(N,N-dimethylamino)propionate (3.0 g; 0.021 mol) was added and as a result of the exothermic reaction refluxing occurred. After cooling to room temperature and stirring for another 30 minutes 100 ml of water was added. The water layer was separated off and extracted with diethyl ether. The combined ether layer was dried (K2CO3), filtered and evaporated. The yield was 4.5 g (83%).

reactant | 1-chloro-1-cyclohexene | 0.049 mol, 5.8 g | ClC1=CCCCC1 | C6H9Cl
reactant | lithium | 0.049 mol, 1.1 g | [Li] | Li
reactant | ethyl-3-(N,N-dimethylamino)propionate | 0.021 mol, 3.0 g | C(C)OC(CCN(C)C)=O | C7H15NO2
reactant | water | 100 ml | O | H2O
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
product | (dimethylaminoethyl)bis(1-cyclohexenyl)-methanol | CN(C)CCC(O)(C1=CCCCC1)C1=CCCCC1 | C17H29NO
